US08461134B2
4-Amino-2-((5-ethyl-1,3,4-oxadiazol-2-yl)methyl)-N-(1-hydroxy-1,3-dihydrobenzo[c][1,2]oxaborol-6-yl)benzenesulfonamide
A solution of N-(3-((5-ethyl-1,3,4-oxadiazol-2-yl)methyl)-4-(N-(1-hydroxy-1,3-dihydrobenzo[c][1,2]oxaborol-6-yl)sulfamoyl)phenyl)-2,2,2-trifluoroacetamide (390 mg, 0.76 mmol) in 7M ammonium in MeOH (10 mL) was stirred in a sealed tube at 50° C. for 16 hours. After concentrated, the crude mixture was purified by prep HPLC (SunFire Prep C18 OBD 5 uM 30×50 mm column) to give the title compound as a yellow solid (204 mg, yield 64%). MS calcd for (C18H19BN4O5S): 414.2, MS found (ESI negative): (M−H)−=413.1. 1H NMR (DMSO-d6) δ (ppm): 10.0 (s, 1H), 9.16 (bs, 1H), 7.56 (d, J=8.8 Hz, 1H), 7.42 (s, 1H), 7.22 (d, J=8.0 Hz, 1H), 7.11 (d, J=8.4 Hz, 1H), 6.42 (d, J=8.8 Hz, 1H), 6.26 (s, 1H), 4.85 (s, 2H), 4.42 (s, 2H), 2.75 (q, 2H), 1.19 (t, 3H).

reactant | N-(3-((5-ethyl-1,3,4-oxadiazol-2-yl)methyl)-4-(N-(1-hydroxy-1,3-dihydrobenzo[c][1,2]oxaborol-6-yl)sulfamoyl)phenyl)-2,2,2-trifluoroacetamide | 0.76 mmol, 390 mg | C(C)C1=NN=C(O1)CC=1C=C(C=CC1S(NC=1C=CC2=C(B(OC2)O)C1)(=O)=O)NC(C(F)(F)F)=O | C20H18BF3N4O6S
solvent | ammonium | 7M | [NH4+]
solvent | MeOH | 10 mL | CO | CH4O
product | 4-Amino-2-((5-ethyl-1,3,4-oxadiazol-2-yl)methyl)-N-(1-hydroxy-1,3-dihydrobenzo[c][1,2]oxaborol-6-yl)benzenesulfonamide | 204 mg, yield 64% | NC1=CC(=C(C=C1)S(=O)(=O)NC=1C=CC2=C(B(OC2)O)C1)CC=1OC(=NN1)CC | C18H19BN4O5S
